US08231946B2
Synthesis of 3-fluoro-cinnamic acid
5 g (40.1 mmol) of 3-fluoro benzaldehyde, 8.38 g (2 eq.) of malonic acid, and 0.34 g (0.1 eq.) of piperidine were added to 9.52 g (3 eq.) of pyridine and stirred at room temperature for about 1 hour. After heating it to 80° C., the mixture was stirred for 12 hours. After the reaction, the resulting solution cooled to room temperature and was slowly added with 1M HCl until it was titrated to about pH 4. The resulting powder was filtered and washed with water, and then dried in a vacuum oven. (Yield: 84%)

reactant | 3-fluoro benzaldehyde | 40.1 mmol, 5 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | malonic acid | 8.38 g, 2 eq. | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.34 g, 0.1 eq. | N1CCCCC1 | C5H11N
reactant | pyridine | 9.52 g, 3 eq. | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1M | Cl | ClH
product | 3-fluoro-cinnamic acid | Yield: 84% | FC=1C=C(C=CC(=O)O)C=CC1 | C9H7FO2
